US04062870
TRANS-4-ISOPROPYLAMINO-3,4-DIHYDRO-2H-NAPHTHO[1,2-b]PYRAN-3-OL
2H-Naphtho[1,2-b]pyran (4.00 g., prepared via cyclisation of 1-naphthyl propargyl ether in diethylaniline at 210°) was converted, via the same route as that described in Example 3, to 3,4-epoxy-3,4-dihydro-2H-naphtho[1,2-b]pyran (1.44 g.) m.p. 96°-99°. This epoxide (1.40g.) was treated with isopropylamine (1.00g., an excess) in refluxing ethanol (100 ml.) for 24 hours. Work-up as described in Example 4 yielded trans-4-isopropylamino-3,4-dihydro-2H-naphtho[1,2-b]pyran-3-ol D-(+)-hydrogen tartrate hydrate (0.30 g.) m.p. 108° - 110°.

reactant | 2H-Naphtho[1,2-b]pyran | 4.00 g | O1C2=C(C=CC1)C=CC1=CC=CC=C12 | C13H10O
reactant | 3,4-epoxy-3,4-dihydro-2H-naphtho[1,2-b]pyran | 1.44 g | O1C2C1C1=C(OC2)C2=CC=CC=C2C=C1 | C13H10O2
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | TRANS-4-ISOPROPYLAMINO-3,4-DIHYDRO-2H-NAPHTHO[1,2-b]PYRAN-3-OL | C(C)(C)N[C@@H]1C2=C(OC[C@H]1O)C1=CC=CC=C1C=C2 | C16H19NO2
